US07456218B2
ethyl 3-{4-[(4′-{2-[acetyl(ethyl)amino]ethoxy}-2′,6′-dimethylbiphenyl-3-yl)methoxy]-2-fluorophenyl}propanoate
A mixture of ethyl 3-[4-({4′-[2-(ethylamino)ethoxy]-2′,6′-dimethylbiphenyl-3-yl}methoxy)-2-fluorophenyl]propanoate (0.27 g, 0.55 mmol), 4-dimethylaminopyridine (7 mg, 55 μmol), acetic anhydride (0.10 mL, 1.09 mmol) and pyridine (5.4 mL) was stirred at room temperature for 62 hrs. The reaction mixture was concentrated and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=9/1-ethyl acetate) to give the title compound (0.25 g, yield 85%) as a colorless oil.

reactant | ethyl 3-[4-({4′-[2-(ethylamino)ethoxy]-2′,6′-dimethylbiphenyl-3-yl}methoxy)-2-fluorophenyl]propanoate | 0.55 mmol, 0.27 g | C(C)NCCOC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)COC1=CC(=C(C=C1)CCC(=O)OCC)F)C | C30H36FNO4
reactant | acetic anhydride | 1.09 mmol, 0.10 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 5.4 mL | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 55 μmol, 7 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | ethyl 3-{4-[(4′-{2-[acetyl(ethyl)amino]ethoxy}-2′,6′-dimethylbiphenyl-3-yl)methoxy]-2-fluorophenyl}propanoate | 0.25 g, yield 85% | C(C)(=O)N(CCOC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)COC1=CC(=C(C=C1)CCC(=O)OCC)F)C)CC | C32H38FNO5
